US04237138
Methanesulphonyl chloride (23 g.) was added dropwise to a stirred solution of 2-[2,6-dimethoxyphenoxy]ethanol (20 g.) (J. Med. Chem. 1969, 12, 326) in pyridine (50 ml.). The solution was left at room temperature for 60 hours, then the solvent evaporated under reduced pressure. The residue was taken up in chloroform, washed with water (3×100 ml.) and sodium bicarbonate solution (5%, 3×100 ml.), dried and the solvent evaporated. The residue was triturated with n-hexane and the solid collected to give 2-[2,6-dimethoxyphenoxy]-ethyl mesylate (11.3 g.) characterized spectroscopically.

reactant | Methanesulphonyl chloride | 23 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | 2-[2,6-dimethoxyphenoxy]ethanol | 20 g | COC1=C(OCCO)C(=CC=C1)OC | C10H14O4
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 2-[2,6-dimethoxyphenoxy]-ethyl mesylate | 11.3 g | S(C)(=O)(=O)OCCOC1=C(C=CC=C1OC)OC | C11H16O6S
